US07381741B2
2-Phenyl-pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester
A mixture of 2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester (0.391 g, 1.82 mmol), triethylamine (0.279 mL, 2.00 mmol) obtained from preparatory example 1,4-N,N-dimethylaminopyridine (catalytic; ˜0.05 mol %), and di-tert-butyldicarbonate (0.437 g, 2.00 mmol) was stirred in acetonitrile at rt for 3 days. The mixture was concentrated, dissolved in ether, washed 1× with satd. NH4Cl, dried over MgSO4, filtered, and concentrated. The residue was suspended in hexanes and filtered to remove solids. The filtrate was concentrated to give 0.49 g (86%) of the title compound. 1H NMR (CDCl3) δ 7.35-7.23 (m, 6H), 6.65-6.64 (d, J=3.73 Hz, 1H), 4.06-4.01 (q, J=7.05 Hz, 2H), 1.20 (s, 9H), 1.05-1.02 (t, J=7.05 Hz, 3H). 13C NMR (CDCl3) δ 164.2, 149.0, 138.3, 133.6, 130.2, 128.1, 127.5, 121.4, 118.6, 111.6, 84.6, 60.0, 27.5, 14.1; MS APCI: [M+H]+=316.1

reactant | 2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | 1.82 mmol, 0.391 g | C(C)OC(=O)C1=C(NC=C1)C1=CC=CC=C1 | C13H13NO2
reactant | triethylamine | 2.00 mmol, 0.279 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 2.00 mmol, 0.437 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Phenyl-pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 0.49 g, 86% | C(C)OC(=O)C1=C(N(C=C1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C18H21NO4
